Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
slip and fal with right hip pain
 
Major Surgical or Invasive Procedure:
___:  Right hip TFN

 
History of Present Illness:
Ms. ___ is a ___ year old female who had a slip and fall onto 
her right hip.  She had pain and inability to ambulate.  She was 
then taken to the ___ for further evaluation and care.
 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis, CKD, 
peripheral neuropathy  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms, 

recent MIBI ___ wnl 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
9. Autonomic Dysfunction
10.CKD II, baseline creat 1.3-1.5
11.PAD s/p recent fem-tib bypass RLE ___. Depression
13. DVT
14. ___ EGD ___. Orthostatic hypotension secondary to autonomic dysfunction 
16. PVD
17. Left hip fx (s/p hemi ___
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___
Father - coronary artery disease with MI in her ___, died at age 
___
 
Physical Exam:
Vitals: T-98.3  HR-75  BP-148/80 RR-16 98%RA
Gen: NAD, AOx3
Chest: RRR, CTAB, pt with upper airway congestion (nonproductive 
cough) but clear lung fields. No chest pain.
RLE: skin clean and intact, wound closed w/ staples without 
signs of erythema, cellulitis, or induration. No tenderness, 
deformity, erythema, edema, induration or ecchymosis, Thighs and 
leg compartments soft, No pain with passive motion, Saphenous, 
Sural, Deep peroneal, Superficial peroneal SILT, ___ FHS ___ TA 
Peroneals all fire without discernable strength discrepancy. AT 
doplerable (stable per vascular surgery). Knee stable to varus 
and valgus stress.  Negative anterior, posterior drawer signs.  

 
Pertinent Results:
___ 01:43PM BLOOD WBC-8.8# RBC-4.12* Hgb-12.7 Hct-37.4 
MCV-91 MCH-30.8 MCHC-33.9 RDW-14.1 Plt ___
___ 11:06AM BLOOD WBC-8.0 RBC-3.00* Hgb-9.3* Hct-26.4* 
MCV-88 MCH-31.2 MCHC-35.4* RDW-15.2 Plt ___
___ 05:35AM BLOOD Hct-22.1*
___ 10:45PM BLOOD WBC-7.4 RBC-3.30* Hgb-9.9* Hct-28.3*# 
MCV-86 MCH-30.0 MCHC-34.9 RDW-15.2 Plt ___
___ 09:35AM BLOOD WBC-6.8 RBC-3.42* Hgb-10.6* Hct-29.7* 
MCV-87 MCH-30.9 MCHC-35.6* RDW-14.9 Plt ___
___ 05:45AM BLOOD Hct-27.1* Plt ___
___ 01:43PM BLOOD ___ PTT-26.4 ___
___ 10:45PM BLOOD ___
___ 09:35AM BLOOD ___ PTT-27.9 ___
___ 01:43PM BLOOD Glucose-123* UreaN-31* Creat-1.2* Na-137 
K-4.0 Cl-101 HCO3-22 AnGap-18
___ 11:06AM BLOOD Glucose-295* UreaN-24* Creat-1.1 Na-135 
K-4.1 Cl-101 HCO3-26 AnGap-12
___ 09:35AM BLOOD Glucose-329* UreaN-20 Creat-1.0 Na-134 
K-4.0 Cl-97 HCO3-26 AnGap-15
___ 10:45PM BLOOD CK-MB-4 cTropnT-<0.01
___ 09:35AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:00PM BLOOD CK-MB-4 cTropnT-<0.01
 
Brief Hospital Course:
Ms. ___ presented to the ___ emergency department on 
___, after a fall onto her right hip.  She was evaluated by 
the orthopaedic and vascular surgery service.  She was noted to 
have a right hip fracture.  She was admitted, consented, and 
prepped for surgery.  On ___ she was taken to the operating 
room and underwent an ORIF of her right hip fracture.  She 
tolerated the procedure well, was extubated, transferred to the 
recovery room, and then to the floor.  On ___ she was also 
transfused with 2 units of packed red blood cells due to acute 
blood loss anemia.  On the floor she was seen by physical 
therapy to improve her strength and mobility. On the night of 
post op day one (___) pt's Foley was removed, however, she 
failed to void after 8 hours and was bladder scanned for 450cc. 
A Foley was replaced for acute urinary retention.  On ___ she 
was again transfused with 2 units of packed red blood cells due 
to acute blood loss anemia. Shortly after receiving the second 
unit of blood, pt complained of increasing epigastric 
discomfort. EKG and CXR were unchanged from her baseline and 
unremarkable. However, given her diabetes and risk for atypical 
angina, cardiac enzymes were cycled. Medicine consultation was 
obtained and recommended continued cycling of enzymes (x3) and 
attributed the symptoms either to the initial fall (ie muscle 
spasm) or to minor transfusion reaction. The transfusion team 
was notified and the pt was monitored. On the day of discharge 
pt is no longer experiencing chest pain and has had three sets 
of negative cardiac enzymes. Pt was cleared by medicine to d/c 
to rehab with follow up by her PCP as an ___ in the next 2 
weeks. 

The rest of her hospital stay was uneventful with her lab data 
and vital signs within normal limits and her pain controlled.  
She is being discharged today in stable condition.
 
Medications on Admission:
Calcitriol 0.5'
Plavix 75'
Cyclosporine gtt 0.05''
Gabapentin 800'
Lantus 12units QHS
Lispro insulin pump
Synthroid 88'
Ativan 0.5'
Reglan 10QACH
MS-contin 60 AM, 30 QHS
Omeprazole 20'
oxycodone PRN
Sertraline 100'
Simvastatin 40'
ASA 81' 
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous 
DAILY (Daily) for 4 weeks.
Disp:*28 syringe* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): continue to take while taking narcotic pain 
medication.  
4. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation: continue to take while taking narcotic pain 
medication.  
5. multivitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
6. calcitriol 0.25 mcg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
7. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
8. levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
11. sertraline 50 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. cholecalciferol (vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
14. calcium carbonate 200 mg (500 mg) Tablet, Chewable Sig: Two 
(2) Tablet, Chewable PO DAILY (Daily).  
15. morphine 30 mg Tablet Extended Release Sig: Two (2) Tablet 
Extended Release PO QAM (once a day (in the morning)).
Disp:*30 Tablet Extended Release(s)* Refills:*0*
16. morphine 15 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO QPM (once a day (in the evening)).
Disp:*15 Tablet Extended Release(s)* Refills:*2*
17. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain: hold for sedation. Do not drive while 
taking narcotic pain medication.
Disp:*60 Tablet(s)* Refills:*0*
18. polyvinyl alcohol 1.4 % Drops Sig: ___ Drops Ophthalmic PRN 
(as needed) as needed for dry eyes.  
19. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for spasms, insomnia.
Disp:*20 Tablet(s)* Refills:*0*
20. insulin glargine 100 unit/mL Solution Sig: Eighteen (18) 
units Subcutaneous at bedtime: Please give at bedtime. Stop once 
pt is using home insulin pump (to be established by ___ 
diabetes).  
21. insulin lispro 100 unit/mL Solution Sig: Ten (10) units 
Subcutaneous three times a day: Please give 10 units humalog w/ 
breakfast, lunch, and dinner in addition to pm lantus and 
insulin sliding scale.  
22. insulin regular human 100 unit/mL Solution Sig: per sliding 
scale units Injection QAc: please give the appropriate insulin 
units based on prandial fingerstick glucose. Ok to adjust 
appropriately. 
160-199 2units
200-239 4units
240-279 6units
280-319 8units.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p fall
Right hip fracture
Acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Continue to be weight bearing as tolerated on your right leg

If you have any increased redness, drainage, or if you have a 
temperature greater than 101.5, please call the office or come 
to the emergency department.

Other Instructions
- Resume your regular diet. 
- Avoid nicotine products to optimize healing. 

- Resume your home medications. Take all medications as 
instructed. 

- Continue taking the Lovenox to prevent blood clots.

-You have also been given Additional Medications to control your 
pain. Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead. You can either have them mailed to 
your home or pick them up at the clinic located on ___. We 
are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy. In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

- Narcotic pain medication may cause drowsiness. Do not drink 
alcohol while taking narcotic medications. Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications. Taking more than recommended may cause serious 
breathing problems.

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
Activity:  Out of bed w/ assist
 Right lower extremity:  Full weight bearing
 Left lower extremity:  Full weight bearing
Treatments Frequency:
Please d/c staples on postoperative day 10
Please attempt voiding trial (d/c foley) ___ pm)
 
Followup Instructions:
___